US04452806
5-(2-Hexylsulfonylphenyl)hydantoin
To a solution of 5-(5-chloro-2-hexylsulfinylphenyl)hydantoin (4.8 g, 0.014 mol) in glacial acetic acid (50 ml) was added potassium permanganate (2.2 g, 0.014 mol) and water (5 ml). The mixture was stirred at room temperature for 45 minutes then poured into 10% sodium bisulfite solution (50 ml). The resulting solution was extracted with ether, the ethereal extract then dried (MgSO4) and evaporated under reduced pressure. The brown oily residue was chromatographed on silica gel and the product eluted with ethyl acetate:hexane (40:60). Evaporation of the eluate under reduced pressure afforded 1.32 g of product as a white solid (26% yield). M.P. 188°-189° C.

reactant | 5-(5-chloro-2-hexylsulfinylphenyl)hydantoin | 0.014 mol, 4.8 g | ClC=1C=CC(=C(C1)C1C(NC(N1)=O)=O)S(=O)CCCCCC | C15H19ClN2O3S
reactant | potassium permanganate | 0.014 mol, 2.2 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 5 ml | O | H2O
reactant | sodium bisulfite | 50 ml | S([O-])(O)=O.[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5-(2-Hexylsulfonylphenyl)hydantoin | 1.32 g, 26% yield | C(CCCCC)S(=O)(=O)C1=C(C=CC=C1)C1C(NC(N1)=O)=O | C15H20N2O4S
